* D:\GITHUB\dummy-load\LT spice simulations\FINISHED REVERSE VOLTAGE PROTECTION WITH RELAY.asc
R1 0 N007 0.1
XU1 N010 N012 N013 0 N011 LM741/NS
V2 N013 0 12
R2 0 N010 16k
V1 N006 0 1.5
M1 N006 N008 N007 N007 NMOS
D2 N006 N005 D
R3 N005 N010 48k
M2 N014 N002 0 0 BSZ0901NS
R5 N014 N015 50
L1 N015 N016 0.1mH
V4 N016 0 12
D1 N014 N016 D
R6 N012 N016 9.75k
R7 0 N012 0.25k
V3 N008 0 0
R4 P001 N002 2k
M3 N002 N001 0 0 Si7336ADP
R9 0 N001 100k
XU2 N004 N002 P002 0 P003 LM741/NS
V5 P002 0 12
V6 P004 0 12
R10 P004 N004 7k
R11 N004 0 5k
R12 P003 N001 330
D5 P005 0 D
R13 P005 N001 500
Q1 N001 P006 0 0 NPN
R14 P007 P006 50
V7 P007 0 0
Q2 N003 P008 0 0 NPN
R15 N003 N002 60
R16 P009 P008 50
V8 P009 0 0
C1 N002 0 1µF IC=7
D3 N011 P001 D
D4 0 N009 Z3p9
R8 N002 N009 2k
.model D D
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1s
.include D:\GITHUB\dummy-load\DATASHEETS\OPAMP-LTspice\LM741.MOD
* RELAY WILL BE HERE
* 60A
* RELAY
* VOLTAGE DIVIDER
* 500nF eliminates parasitic turn OFFs & ONs
* and allows Vbat< THRESHOLD VOLTAGE
* Auxiliary Supply
* Auxiliary Supply
* Battery
* +
* -
* (Vbat-0.7) /4
* 0.3V
* for a short time
* Auxiliary Supply
* MANUEL BUTTON
* ARDUINO SHUTS THE SAFETY ( TO ANALYZE POSITIVE SIGNALS )
* RED LED INDICATES RELAY IS CLOSED
* ARDUINO MAY SHUT THE RELAY (TO ANALYZE INPUT SIGNAL)
* ALSO ALLOWS HIGH FREQUENCY -> OTHERWISE OP AMP BANDWIDTH TRIGGERS GATE VOLTAGE LIMIT
.model Z3p9 D(Is=1.5n Rs=.5 Cjo=185p nbv=3 bv=3.9 Ibv=1m)
* May add an additional buzzer
.backanno
.end
